US07723369B2
4-[4′-(4-(2,4-Dichloro-phenyl)-1-{4-[1,1,4-trioxo-5-(2-trimethylsilanyl-ethoxy methyl)-[1,2,5]thiadiazolidin-2-yl]-phenyl}-1H-imidazol-2-ylmethyl)-biphenyl-4-yl]-piperazin-2-one (17 mg, 0.02 mmol) was treated as described in general procedure L [using iodocyclohexane (13 mg, 0.06 mmol)] and general procedure W stepwise to give 1-cyclohexyl-4-(4′-{4-(2,4-dichloro-phenyl)-1-[4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-phenyl]-1H-imidazol-2-ylmethyl}-biphenyl-4-yl)-piperazin-2-one.

reactant | 4-[4′-(4-(2,4-Dichloro-phenyl)-1-{4-[1,1,4-trioxo-5-(2-trimethylsilanyl-ethoxy methyl)-[1,2,5]thiadiazolidin-2-yl]-phenyl}-1H-imidazol-2-ylmethyl)-biphenyl-4-yl]-piperazin-2-one | 0.02 mmol, 17 mg | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1S(N(C(C1)=O)COCC[Si](C)(C)C)(=O)=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)N1CC(NCC1)=O | C40H42Cl2N6O5SSi
reactant | iodocyclohexane | 0.06 mmol, 13 mg | IC1CCCCC1 | C6H11I
product | 1-cyclohexyl-4-(4′-{4-(2,4-dichloro-phenyl)-1-[4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-phenyl]-1H-imidazol-2-ylmethyl}-biphenyl-4-yl)-piperazin-2-one | C1(CCCCC1)N1C(CN(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1S(NC(C1)=O)(=O)=O)=O | C40H38Cl2N6O4S
